US04241064
In 50 ml of dry tetrahydrofuran were dissolved 160 mg of 1-carbomethoxy-9H-pyrido[3,4-b]indole. The solution was cooled with ice, 2 ml of diisobutyl-aluminum hydride were added and the reaction mixture allowed to stand for 2 hours. Unreacted reagent was then decomposed with a small amount of water and the mixture extracted with chloroform. The chloroform was removed by distillation and the residue recrystallized from methanol to yield 30 mg of 1-hydroxymethyl-9H-pyrido[3,4-b]indole as pale-yellow needles melting at 228°-230° C. The IR spectrum shows the absorption peak at 1680 cm-1 has disappeared, with an intense absorption being observed at 1630 cm-1. Mol. wt. (based on mass spectrum) 198.

reactant | 1-carbomethoxy-9H-pyrido[3,4-b]indole | 160 mg | C(=O)(OC)C1=NC=CC2=C1NC1=CC=CC=C21 | C13H10N2O2
reactant | diisobutyl-aluminum hydride | 2 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | water | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-hydroxymethyl-9H-pyrido[3,4-b]indole | 30 mg | OCC1=NC=CC2=C1NC1=CC=CC=C21 | C12H10N2O
